US08293744B2
Step 2: Preparation of ethyl 1-[(6-methyl-2,3′-bipyridin-5-yl)methyl]-4-thioxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate:
Ethyl 1-[(6-methyl-2,3′-bipyridin-5-yl)methyl]-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate (139 mg, 0.346 mmol) was suspended in dioxane (6 mL) and toluene (3 mL), placed into a preheated oil bath at 100° C. and treated with Lawesson's Reagent (84.0 mg, 0.208 mmol, 0.6 equiv) portionwise over 5 minutes. After stirring for 30 minutes, the mixture was cooled to ambient temperature and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate containing 5% methanol), providing the titled compound as brownish-green foam.

reactant | Ethyl 1-[(6-methyl-2,3′-bipyridin-5-yl)methyl]-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | 0.346 mmol, 139 mg | CC1=C(C=CC(=N1)C=1C=NC=CC1)CN1N=C(C(C2=C1N=CC=C2)=O)C(=O)OCC | C22H19N5O3
reactant | Lawesson's Reagent | 0.208 mmol, 84.0 mg, 0.6 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-[(6-methyl-2,3′-bipyridin-5-yl)methyl]-4-thioxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | CC1=C(C=CC(=N1)C=1C=NC=CC1)CN1N=C(C(C2=C1N=CC=C2)=S)C(=O)OCC | C22H19N5O2S
